simulator lang=spectre
global 0

ahdl_include "vin_src.va"
ahdl_include "lfsr.va"
ahdl_include "dither_adder.va"
ahdl_include "gain_amp_fixed.va"

// Supply
Vdd (vdd 0) vsource dc=0.9
Vss (vss 0) vsource dc=0

// Clock: 50 MHz, 20ns period
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=20n rise=1n fall=1n width=9n

// Reset: active low, asserted for 100ns then released and held high
Vrst (rst_n 0) vsource type=pwl wave=[0 0 100n 0 100.1n 0.9 200u 0.9]

// Enable: high after reset
Ven (en 0) vsource type=pwl wave=[0 0 200n 0 200.1n 0.9 200u 0.9]

// Signal path instances
IVIN (clk rst_n vinp vinn) vin_src
ILFSR (dpn vdd vss clk en rst_n) lfsr
IDITH (vinp vinn dpn vdin_p vdin_n) dither_adder DITHER_AMP=0.014063
IAMP (vdin_p vdin_n vamp_p vamp_n) gain_amp_fixed ACTUAL_GAIN=8.64

// Save required waveforms
save vinp vinn vamp_p vamp_n

// Transient analysis
tran tran stop=200u maxstep=8n
