simulator lang=spectre
global 0

ahdl_include "serializer_frame_alignment_ref.va"

// Power supplies
Vdd (vdd 0) vsource dc=1.8
Vss (vss 0) vsource dc=0

// Clock: 10ns period, 50% duty cycle
Vclk (clk 0) vsource type=pulse val0=0 val1=1.8 period=10n rise=0.1n fall=0.1n width=4.9n delay=0

// Load pulse: active for one clock cycle at 25ns (first word 0xA5)
Vload (load 0) vsource type=pwl wave=[0 0 24.9n 0 25n 1.8 35n 1.8 35.1n 0 100n 0 100.9n 0 101n 1.8 111n 1.8 111.1n 0 130n 0]

// Data inputs: first word 0xA5 = 10100101, second word 0x3C = 00111100
// din7 din6 din5 din4 din3 din2 din1 din0
// For 0xA5: 1    0    1    0    0    1    0    1
// For 0x3C: 0    0    1    1    1    1    0    0
Vdin7 (din7 0) vsource type=pwl wave=[0 1.8 100n 1.8 100.1n 0 130n 0]
Vdin6 (din6 0) vsource dc=0
Vdin5 (din5 0) vsource type=pwl wave=[0 1.8 100n 1.8 100.1n 1.8 130n 1.8]
Vdin4 (din4 0) vsource type=pwl wave=[0 0 100n 0 100.1n 1.8 130n 1.8]
Vdin3 (din3 0) vsource type=pwl wave=[0 0 100n 0 100.1n 1.8 130n 1.8]
Vdin2 (din2 0) vsource type=pwl wave=[0 1.8 100n 1.8 100.1n 1.8 130n 1.8]
Vdin1 (din1 0) vsource dc=0
Vdin0 (din0 0) vsource type=pwl wave=[0 1.8 100n 1.8 100.1n 0 130n 0]

// DUT instance
XDUT (vdd vss clk load din7 din6 din5 din4 din3 din2 din1 din0 sout frame) serializer_frame_alignment_ref

// Transient analysis
tran tran stop=130n maxstep=0.1n

// Save required signals
save clk
save frame
save sout
